US07737166B2
2-Cyclopropyl-7-fluoro-6-(3-fluorophenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile (I-174)
6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (200 mg, 0.68 mmol), 3-fluorophenylboronic acid (380 mg, 2.71 mmol) and tripotassium phosphate (288 mg, 1.36 mmol) were dissolved in 1,4-dioxane (8 ml), then at room temperature, tetrakis(triphenylphosphine)palladium(0) (157 mg, 0.14 mmol) was added. The solution was stirred under nitrogen atmosphere at 95° C. for 17 hours. After cooling to room temperature, the reaction liquid was fractionated with ethyl acetate and aqueous saturated ammonium chloride solution. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=8:1) to obtain the entitled compound (151 mg, 72%) as a white solid.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.68 mmol, 200 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | 3-fluorophenylboronic acid | 2.71 mmol, 380 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | tripotassium phosphate | 1.36 mmol, 288 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 157 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-7-fluoro-6-(3-fluorophenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile | 151 mg, 72% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC(=CC=C2)F)C)C#N | C18H12F2N2O
